US05945556
47.8 g (0.25 mol) of 2,4-dichlorobenzoic acid, 22.5 g (0.3 mol) of glycine,1.5 g (6.8 mmol) of basic copper carbonate and 22 g (0.55 mol) of NaOH are introduced into 300 g of N,N-dimethylacetamide and heated to 80° C. 20.8 g (0.15 mol) of potassium carbonate are added, and the mixture is heated to 100° C. After 3.5 h at 100° C., the temperature is raised to 110° C., and the mixture is stirred at 110° C. for 3.5 h, during which 100 g of N,N-dimethylacetamide are added. After a further 100 g of N,N-dimethylacetamide has been added the mixture is heated at 120° C. for 2.5 h and at 140-150° C. for 2.5 h. After cooling to 80° C., 139.8 g (0.9 mol) of diethyl sulfate are added dropwise over the course of 2 h and, after stirring at 80° C. for 45 min, excess diethyl sulfate is destroyed by adding ammonia. 350 g of water are added to the reaction mixture, and the product is extracted with xylene. 352 g of xylene extract with a product content of about 0.17 g/g are obtained, corresponding to 59.8 g (84%) of ethyl N-carbethoxymethylene-4-chloroanthranilate.

reactant | 2,4-dichlorobenzoic acid | 0.25 mol, 47.8 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | glycine | 0.3 mol, 22.5 g | NCC(=O)O | C2H5NO2
reactant | NaOH | 0.55 mol, 22 g | [OH-].[Na+]
reactant | potassium carbonate | 0.15 mol, 20.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulfate | 0.9 mol, 139.8 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | N,N-dimethylacetamide | 100 g | CN(C(C)=O)C | C4H9NO
reactant | N,N-dimethylacetamide | 100 g | CN(C(C)=O)C | C4H9NO
reactant | N,N-dimethylacetamide | 300 g | CN(C(C)=O)C | C4H9NO
catalyst | copper carbonate | 6.8 mmol, 1.5 g | C([O-])([O-])=O.[Cu+2]
product | ethyl N-carbethoxymethylene-4-chloroanthranilate | 59.8 g, 84% | C(=O)(OCC)C=NC=1C(C(=O)OCC)=CC=C(C1)Cl | C13H14ClNO4
